US07829585B2
2-(6-Methoxy-benzo[b]thiophen-2-ylmethyl-isoindole-1,3-dione
To a tetrahydrofuran (40 mL) solution of (6-methoxy-benzo[b]thiophen-2-yl)-methanol (4.1 g, 21.1 mmol) described in Production Example 77-1-2 were added diethyl azodicarboxylate (3.32 mL, 21.1 mmol), phthalimide (3.1 g, 21.1 mmol) and triphenylphosphine (5.53 g, 21.1 mmol). The mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under a reduced pressure and the resulting residue was purified by silica gel chromatography (heptane:ethyl acetate=10:1 to 4:1) to obtain the title compound (2.34 g, 34%).

reactant | (6-methoxy-benzo[b]thiophen-2-yl)-methanol | 21.1 mmol, 4.1 g | COC=1C=CC2=C(SC(=C2)CO)C1 | C10H10O2S
reactant | diethyl azodicarboxylate | 21.1 mmol, 3.32 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | phthalimide | 21.1 mmol, 3.1 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 21.1 mmol, 5.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 6-Methoxy-benzo[b]thiophen-2-ylmethyl-isoindole-1,3-dione | 2.34 g, 34% | COC1=CC(=C2C(NC(C2=C1)=O)=O)CC1=CC2=C(S1)C=CC=C2 | C18H13NO3S
